### PR TITLE
[Merged by Bors] - feat(Data/Matrix/RowCol): generalise the `Unique` indexing type in `Matrix.row` and `Matrix.col`

### PR DESCRIPTION
**Pull request by joneugster**
Changing `Matrix.row` and `Matrix.col` to use arbitrary `Unique` type for indexing the single column/row.

---

Compare to #11522, which presents a simpler possible solution.

For more details, see the other PR.

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Why.20does.20.60Matrix.2Erow.60.20use.20.20.60Unit.60.20instead.20of.20.60Fin.201.60.3F)
 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Notation.lean [hunk 1]
```diff
@@ -181,25 +181,26 @@ end DotProduct
...
 
 @[simp]
-theorem col_cons (x : α) (u : Fin m → α) : col (vecCons x u) = vecCons (fun _ => x) (col u) := by
+theorem col_cons (x : α) (u : Fin m → α) : col (ι := ι) (vecCons x u) = vecCons (fun _ => x) (col u) := by
   ext i j
   refine' Fin.cases _ _ i <;> simp [vecHead, vecTail]
 #align matrix.col_cons Matrix.col_cons
 
 @[simp]
-theorem row_empty : row (vecEmpty : Fin 0 → α) = fun _ => vecEmpty := by
```
Comment (joneugster) [inline Mathlib/Data/Matrix/Notation.lean:196]: I think we'd see added `ι` in quite a lot of places. Unless we can tell Lean to use `ι := Fin 1` if it can't infer it otherwise?

File: Mathlib/Data/Matrix/Notation.lean [hunk 2]
```diff
@@ -181,25 +181,26 @@ end DotProduct
 
 section ColRow
 
+variable {ι : Type} [Unique ι]
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Notation.lean:184]:
```suggestion
variable {ι : Type*} [Unique ι]
```

File: Mathlib/Data/Matrix/Notation.lean [hunk 3]
```diff
@@ -181,25 +181,27 @@ end DotProduct
 
 section ColRow
 
+variable {ι : Type*} [Unique ι]
 @[simp]
-theorem col_empty (v : Fin 0 → α) : col v = vecEmpty :=
+theorem col_empty (v : Fin 0 → α) : col (ι := ι) v = vecEmpty :=
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Notation.lean:186]: These statements aren't really well-typed, see #11593

Comment (joneugster) [reply Mathlib/Data/Matrix/Notation.lean:186]: If I add your modifications from that PR here, I still need the exact same modifications as they are now. I believe these two issues are not directly connected.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Notation.lean:186]: Yes, no action needed by you; your change just caused me to spot a latent issue in this file, and I thought I'd leave a comment in case another reviewer had the same thought.

**Review by YaelDillies — COMMENTED** [review]
What if you make `col` and `row` take `ι` as an explicit argument?

File: Mathlib/Analysis/Matrix.lean [hunk 4]
```diff
@@ -365,8 +366,8 @@ theorem linfty_opNorm_mul (A : Matrix l m α) (B : Matrix m n α) : ‖A * B‖
 @[deprecated (since := "2024-02-02")] alias linfty_op_norm_mul := linfty_opNorm_mul
 
 theorem linfty_opNNNorm_mulVec (A : Matrix l m α) (v : m → α) : ‖A *ᵥ v‖₊ ≤ ‖A‖₊ * ‖v‖₊ := by
-  rw [← linfty_opNNNorm_col (A *ᵥ v), ← linfty_opNNNorm_col v]
-  exact linfty_opNNNorm_mul A (col v)
+  rw [← linfty_opNNNorm_col (ι := Fin 1) (A *ᵥ v), ← linfty_opNNNorm_col v (ι := Fin 1)]
+  exact linfty_opNNNorm_mul A (col (ι := Fin 1) v)
```
Comment (joneugster) [inline Mathlib/Analysis/Matrix.lean:370]:
```suggestion
  exact linfty_opNNNorm_mul A (col (Fin 1) v)
```

File: Mathlib/Data/Matrix/Notation.lean [hunk 5]
```diff
@@ -179,24 +179,26 @@ end DotProduct
...
```
Comment (joneugster) [inline Mathlib/Data/Matrix/Notation.lean:184]:
```suggestion
theorem col_empty (v : Fin 0 → α) : col ι v = vecEmpty :=
```

File: Mathlib/Data/Matrix/Notation.lean [hunk 6]
```diff
@@ -179,24 +179,26 @@ end DotProduct
...
   empty_eq _
 #align matrix.col_empty Matrix.col_empty
 
 @[simp]
 theorem col_cons (x : α) (u : Fin m → α) :
-    col (vecCons x u) = of (vecCons (fun _ => x) (col u)) := by
+    col (ι := ι) (vecCons x u) = of (vecCons (fun _ => x) (col ι u)) := by
```
Comment (joneugster) [inline Mathlib/Data/Matrix/Notation.lean:190]:
```suggestion
    col ι (vecCons x u) = of (vecCons (fun _ => x) (col ι u)) := by
```

File: Mathlib/Data/Matrix/Notation.lean [hunk 7]
```diff
@@ -179,24 +179,26 @@ end DotProduct
...
   ext i j
   refine Fin.cases ?_ ?_ i <;> simp [vecHead, vecTail]
 #align matrix.col_cons Matrix.col_cons
 
 @[simp]
-theorem row_empty : row (vecEmpty : Fin 0 → α) = of fun _ => vecEmpty := rfl
+theorem row_empty : row (ι := ι) (vecEmpty : Fin 0 → α) = of fun _ => vecEmpty := rfl
```
Comment (joneugster) [inline Mathlib/Data/Matrix/Notation.lean:196]:
```suggestion
theorem row_empty : row ι (vecEmpty : Fin 0 → α) = of fun _ => vecEmpty := rfl
```

File: Mathlib/Data/Matrix/Notation.lean [hunk 8]
```diff
@@ -179,24 +179,26 @@ end DotProduct
...
 #align matrix.row_empty Matrix.row_empty
 
 @[simp]
-theorem row_cons (x : α) (u : Fin m → α) : row (vecCons x u) = of fun _ => vecCons x u := rfl
+theorem row_cons (x : α) (u : Fin m → α) : row (ι := ι) (vecCons x u) = of fun _ => vecCons x u :=
```
Comment (joneugster) [inline Mathlib/Data/Matrix/Notation.lean:200]:
```suggestion
theorem row_cons (x : α) (u : Fin m → α) : row ι (vecCons x u) = of fun _ => vecCons x u :=
```

File: Mathlib/LinearAlgebra/FreeModule/Finite/Matrix.lean [hunk 9]
```diff
@@ -113,8 +113,8 @@ end Integer
 theorem Matrix.rank_vecMulVec {K m n : Type u} [CommRing K] [Fintype n]
     [DecidableEq n] (w : m → K) (v : n → K) : (Matrix.vecMulVec w v).toLin'.rank ≤ 1 := by
   nontriviality K
-  rw [Matrix.vecMulVec_eq, Matrix.toLin'_mul]
+  rw [Matrix.vecMulVec_eq (ι := Fin 1), Matrix.toLin'_mul]
```
Comment (joneugster) [inline Mathlib/LinearAlgebra/FreeModule/Finite/Matrix.lean:116]:
```suggestion
  rw [Matrix.vecMulVec_eq (Fin 1), Matrix.toLin'_mul]
```

File: Mathlib/Data/Matrix/RowCol.lean [hunk 10]
```diff
@@ -26,136 +26,146 @@ variable {R : Type*} {α : Type v} {β : Type w}
 
 namespace Matrix
 
-/-- `Matrix.col u` is the column matrix whose entries are given by `u`. -/
-def col (w : m → α) : Matrix m Unit α :=
+/-- `Matrix.col ι u` is the column matrix whose entries are given by `u`.
+
+-/
+@[nolint unusedArguments]
+def col (ι : Type*) [Unique ι] (w : m → α) : Matrix m ι α :=
```
Comment (YaelDillies) [inline Mathlib/Data/Matrix/RowCol.lean:33]: Do you actually need `Unique` anywhere in the API?
```suggestion
def col (ι : Type*) (w : m → α) : Matrix m ι α :=
```

Comment (joneugster) [reply Mathlib/Data/Matrix/RowCol.lean:33]: updated!

File: Mathlib/Data/Matrix/RowCol.lean [hunk 11]
```diff
@@ -26,136 +26,146 @@ variable {R : Type*} {α : Type v} {β : Type w}
...
-theorem col_apply (w : m → α) (i j) : col w i j = w i :=
+theorem col_apply {ι : Type*} [Unique ι] (w : m → α) (i) (j : ι) : col ι w i j = w i :=
   rfl
 #align matrix.col_apply Matrix.col_apply
 
-/-- `Matrix.row u` is the row matrix whose entries are given by `u`. -/
-def row (v : n → α) : Matrix Unit n α :=
+/-- `Matrix.row ι u` is the row matrix whose entries are given by `u`.
+
+-/
```
[the remark this answers is not in the document]
Comment (joneugster) [reply Mathlib/Data/Matrix/RowCol.lean:45]: updated the docstrings

File: Mathlib/Data/Matrix/Notation.lean [hunk 12]
```diff
@@ -179,24 +179,26 @@ end DotProduct
 
 section ColRow
 
+variable {ι : Type*}
```
Comment (YaelDillies) [inline Mathlib/Data/Matrix/Notation.lean:182]:
```suggestion
variable {ι : Type*}

```

File: Mathlib/LinearAlgebra/Matrix/Trace.lean [hunk 13]
```diff
@@ -180,10 +180,11 @@ theorem trace_mul_cycle' [NonUnitalCommSemiring R] (A : Matrix m n R) (B : Matri
 #align matrix.trace_mul_cycle' Matrix.trace_mul_cycle'
 
 @[simp]
-theorem trace_col_mul_row [NonUnitalNonAssocSemiring R] (a b : n → R) :
-    trace (col a * row b) = dotProduct a b := by
+theorem trace_col_mul_row {ι : Type*} [Unique ι] [NonUnitalNonAssocSemiring R] (a b : n → R) :
+    trace (col ι a * row ι b) = dotProduct a b := by
   apply Finset.sum_congr rfl
   simp [mul_apply]
+
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Matrix/Trace.lean:187]:
```suggestion
```

**Review by YaelDillies — APPROVED** [review]
Looks fine to me modulo those comments!

maintainer merge

File: Mathlib/Analysis/Matrix.lean [hunk 14]
```diff
@@ -148,22 +148,22 @@ instance [StarAddMonoid α] [NormedStarGroup α] : NormedStarGroup (Matrix m m 
   ⟨norm_conjTranspose⟩
 
 @[simp]
-theorem nnnorm_col (v : m → α) : ‖col v‖₊ = ‖v‖₊ := by
+theorem nnnorm_col {ι : Type*} [Unique ι] (v : m → α) : ‖col ι v‖₊ = ‖v‖₊ := by
```
Comment (jcommelin) [inline Mathlib/Analysis/Matrix.lean:151]: Could you please use `variable {ι : Type*} [Unique ι]` to avoid the repetition?

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by riccardobrasca** [comment]
Oh sorry, there is a comment by Johan!

bors r-

File: Mathlib/Analysis/Matrix.lean (hunk 14 above)
Comment (joneugster) [reply Mathlib/Analysis/Matrix.lean]: done!

**Comment by riccardobrasca** [comment]
Can you please fix the conflict?

**Comment by Parcly-Taxel** [comment]
> Can you please fix the conflict?

I actually noticed the conflict after I ringed you; fixed now.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
